US07326791B2
N-[1-(5-chloro-1H-benzimidazol-2-yl)-5-benzyloxycarbonylaminopentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and 1-(5-chloro-1H-benzimidazol-2-yl)-5-benzyloxycarbonyl-aminopentylamine in tetrahydrofuran. Yield: quantitative; Rf value: 0.52 (silica gel; methylene chloride/ethanol=9:1); C33H36ClN5O4 (602.13); mass spectrum: (M−H)−=600/602 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(5-chloro-1H-benzimidazol-2-yl)-5-benzyloxycarbonyl-aminopentylamine | ClC1=CC2=C(NC(=N2)C(CCCC(C(=O)OCC2=CC=CC=C2)N)N)C=C1 | C20H23ClN4O2
reactant | chlorine | ClCl | Cl2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | N-[1-(5-chloro-1H-benzimidazol-2-yl)-5-benzyloxycarbonylaminopentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: quantitative | ClC1=CC2=C(NC(=N2)C(CCCCNC(=O)OCC2=CC=CC=C2)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C33H36ClN5O4
